US09029549B2
Ethyl 2-(1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (IV-2)
4-[4-(Ethoxycarbonyl)-1,3-thiazol-2-yl]piperidinium chloride (VI-1, 5.50 g) is reacted analogously to Example IV-1 with [3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid (3.86 g). This gives, after chromatographic purification, ethyl 2-(1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (5.1 g, 62%).

reactant | 4-[4-(Ethoxycarbonyl)-1,3-thiazol-2-yl]piperidinium chloride | 5.50 g | [Cl-].C(C)OC(=O)C=1N=C(SC1)C1CC[NH2+]CC1
reactant | [3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid | 3.86 g | FC(C1=NN(C=C1)CC(=O)O)(F)F | C6H5F3N2O2
product | Ethyl 2-(1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate | FC(C1=NN(C=C1)CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)OCC)(F)F | C17H19F3N4O3S
